US08609680B2
To a solution of methyl(4-iodophenyl)acetate (1.5 g, 5.4 mmol), cyclopropylboronic acid (607 mg, 7.06 mmol), potassium phosphate (4.04 g, 29.7 mmol) and tricyclohexylphosphine (152 mg, 10 mol %) in 25 mL toluene under nitrogen was added water (1.25 mL) and palladium acetate (61 mg, 5 mol %). The mixture was heated to 100° C. for 10 hours. After cooling to room temperature, water and ethyl acetate were added and the mixture was filtered through a Celite® pad to remove insoluble material. The layers were separated and the water layer was washed 2× with ethyl acetate. The combined organic layers were washed with brine and dried over anhydrous magnesium sulfate. Solvent removal gave 1.5 g of a dark yellow paste which was purified by silica chromatography on an ISCO (Teledyne Corp., Thousand Oaks, Calif.) column, eluting with a gradient 0/100 to 30/70 ethyl acetate/heptanes, to give methyl(4-cyclopropylphenyl)acetate as a yellow semi-solid (718 mg, 69%).

reactant | methyl(4-iodophenyl)acetate | 5.4 mmol, 1.5 g | COC(CC1=CC=C(C=C1)I)=O | C9H9IO2
reactant | cyclopropylboronic acid | 7.06 mmol, 607 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 29.7 mmol, 4.04 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 152 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 61 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 1.25 mL | O | H2O
product | methyl(4-cyclopropylphenyl)acetate | 718 mg, 69% | COC(CC1=CC=C(C=C1)C1CC1)=O | C12H14O2
